* LVS netlist generated with ICnet by 'bxl1703' on Tue Oct 22 2019 at 23:23:52

*
* Globals.
*
.global ground

*
* Component pathname : $PYXIS_SPT/digicdesign/mirroradder
*
.subckt mirroradder  Cout S A B Cin Vdd

        M28 N$185 N$37 N$106 ground nmos l=0.13u w=0.65u m=1
        M23 N$183 A ground ground nmos l=0.13u w=0.7u m=1
        M22 N$182 B N$183 ground nmos l=0.13u w=0.7u m=1
        M27 N$106 B ground ground nmos l=0.13u w=0.65u m=1
        M25 N$106 A ground ground nmos l=0.13u w=0.65u m=1
        M12 N$161 B N$156 Vdd pmos l=0.13u w=1.56u m=1
        M26 N$106 Cin ground ground nmos l=0.13u w=0.65u m=1
        M20 N$185 Cin N$161 Vdd pmos l=0.13u w=1.56u m=1
        M19 Cout N$37 ground ground nmos l=0.13u w=0.26u m=1
        M18 Cout N$37 Vdd Vdd pmos l=0.13u w=0.52u m=1
        M17 N$37 A N$26 ground nmos l=0.13u w=0.52u m=1
        M16 N$26 B ground ground nmos l=0.13u w=0.52u m=1
        M15 N$131 B ground ground nmos l=0.13u w=0.52u m=1
        M14 N$37 Cin N$131 ground nmos l=0.13u w=0.52u m=1
        M13 S N$185 Vdd Vdd pmos l=0.13u w=0.52u m=1
        M11 N$156 A Vdd Vdd pmos l=0.13u w=1.56u m=1
        M10 N$185 N$37 N$121 Vdd pmos l=0.13u w=1.3u m=1
        M9 N$121 B Vdd Vdd pmos l=0.13u w=1.3u m=1
        M8 N$121 Cin Vdd Vdd pmos l=0.13u w=1.3u m=1
        M7 N$121 A Vdd Vdd pmos l=0.13u w=1.3u m=1
        M6 N$37 A N$125 Vdd pmos l=0.13u w=1.04u m=1
        M5 N$125 B Vdd Vdd pmos l=0.13u w=1.04u m=1
        M4 N$37 Cin N$132 Vdd pmos l=0.13u w=1.04u m=1
        M21 N$185 Cin N$182 ground nmos l=0.13u w=0.7u m=1
        M29 S N$185 ground ground nmos l=0.13u w=0.26u m=1
        M3 N$132 B Vdd Vdd pmos l=0.13u w=1.04u m=1
        M2 N$132 A Vdd Vdd pmos l=0.13u w=1.04u m=1
        M1 N$131 A ground ground nmos l=0.13u w=0.52u m=1
.ends mirroradder

*
* Component pathname : $PYXIS_SPT/digicdesign/4bitripplecarry
*
.subckt 4bitripplecarry  Cout S0 S1 S2 S3 A0 A1 A2 A3 B0 B1 B2 B3 Cin0 VDD

        X_MIRRORADDER4 Cout S3 A3 B3 N$56 VDD mirroradder
        X_MIRRORADDER3 N$56 S2 A2 B2 N$41 VDD mirroradder
        X_MIRRORADDER2 N$41 S1 A1 B1 N$52 VDD mirroradder
        X_MIRRORADDER1 N$52 S0 A0 B0 Cin0 VDD mirroradder
.ends 4bitripplecarry

